US03998834
A mixture of 4.5 parts of (bromomethyl)cyclopropane, 4.8 parts of methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate, 5 parts of sodium carbonate, 0.3 parts of potassium iodide and 63 parts of methylbenzene is stirred and refluxed for 4h. The reaction mixture is cooled and filtered. The filtrate is washed with water, dried, filtered and evaporated. The oily residue is dissolved in petroleumether. The solution is filtered and the filtrate is evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and dried, yielding methyl 1-(cyclopropylmethyl)-4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate; mp. 171.4° C.

reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
reactant | methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OC | C16H22N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | methyl 1-(cyclopropylmethyl)-4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.C1(CC1)CN1CCC(CC1)(C(=O)OC)N(C1=CC=CC=C1)C(CC)=O | InChI=1S/C20H28N2O3.C2H2O4/c1-3-18(23)22(17-7-5-4-6-8-17)20(19(24)25-2)11-13-21(14-12-20)15-16-9-10-16;3-1(4)2(5)6/h4-8,16H,3,9-15H2,1-2H3;(H,3,4)(H,5,6)
